US07173048B2
To a solution of 94 mg (0.23 mmol) of 2-methyl-5-(2,2,2-trifluoro-1-triethylsilanyloxy-1-trifluoromethyl-ethyl)-2,3-dihydro-1H-indole in 0.5 mL of DMF were added 104 mg (0.45 mmol) of 3-chloromethyl-benzoic acid methyl ester and the mixture was stirred at 80° C. for 10 hrs. After cooling to RT the mixture was treated with 0.5 mL of a 1M solution of TBAF in THF and stirred for an hour at 60° C. Evaporation of the solvent and chromatography on silica gel with EtOAc/n-heptane gave 58 mg (99%) of 3-[2-methyl-5-(2,2,2-trifluoro-1-hydroxy-1-trifluoromethyl-ethyl)-2,3-dihydro-indol-1-ylmethyl]-benzoic acid methyl ester, light red oil, MS: 448 (MH+).

reactant | 2-methyl-5-(2,2,2-trifluoro-1-triethylsilanyloxy-1-trifluoromethyl-ethyl)-2,3-dihydro-1H-indole | 0.23 mmol, 94 mg | CC1NC2=CC=C(C=C2C1)C(C(F)(F)F)(C(F)(F)F)O[Si](CC)(CC)CC | C18H25F6NOSi
reactant | 3-chloromethyl-benzoic acid methyl ester | 0.45 mmol, 104 mg | COC(C1=CC(=CC=C1)CCl)=O | C9H9ClO2
reactant | TBAF | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | THF | C1CCOC1 | C4H8O
product | 3-[2-methyl-5-(2,2,2-trifluoro-1-hydroxy-1-trifluoromethyl-ethyl)-2,3-dihydro-indol-1-ylmethyl]-benzoic acid methyl ester | 58 mg, 99% | COC(C1=CC(=CC=C1)CN1C(CC2=CC(=CC=C12)C(C(F)(F)F)(C(F)(F)F)O)C)=O | C21H19F6NO3
